US06004478
Preparation of trans-4-(2-(4-(2 ,2,3 ,3 ,-tetrafluoro-n-propoxy)phenyl)ethyl)-1-(4-n-pentenyl)-1-silacyclohexane
The general procedure of Example 56 was repeated using 4-n-pentenyl-4-phenyl-4-silacyclohexane carbaldehyde, 4-(t-butyldimethylsiloxy)benzyltriphenylphosphonium bromide, and 1-bromo-2,2,3,3-tetrafluoropropane, thereby obtaining the intended compound.

reactant | 4-n-pentenyl-4-phenyl-4-silacyclohexane carbaldehyde | C(=CCCC)[Si]1(CCC(CC1)C=O)C1=CC=CC=C1 | C17H24OSi
reactant | 4-(t-butyldimethylsiloxy)benzyltriphenylphosphonium bromide | [Br-].O([Si](C)(C)C(C)(C)C)C1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | 1-bromo-2,2,3,3-tetrafluoropropane | BrCC(C(F)F)(F)F | C3H3BrF4
product | trans-4-(2-(4-(2 ,2,3 ,3 ,-tetrafluoro-n-propoxy)phenyl)ethyl)-1-(4-n-pentenyl)-1-silacyclohexane | FC(COC1=CC=C(C=C1)CC[C@@H]1CC[Si@H](CC1)CCCC=C)(C(F)F)F | C21H30F4OSi
